US04031226
A mixture of 3.5 parts of N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}-2-nitrobenzamide hydrochloride, 90 parts of tetrahydrofuran and 40 parts of methanol is hydrogenerated at normal pressure and at room temperature with 0.2 parts of platinium dioxide. After the calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated. The residue is converted into the hydrochloride salt in 2-propanol and 2,2'-oxybispropane. The salt is filtered off and dried, yielding 2.6 parts of 2-amino-N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}benzamide dihydrochloride hemihydrate; mp. 195.7° C.

reactant | N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}-2-nitrobenzamide hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCN(CC1)CCNC(C1=C(C=CC=C1)[N+](=O)[O-])=O)O
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
product | 2-amino-N-{2-[4-(4-chlorophenyl)-4-hydroxy-1-piperidinyl]ethyl}benzamide dihydrochloride hemihydrate | O.Cl.Cl.NC1=C(C(=O)NCCN2CCC(CC2)(O)C2=CC=C(C=C2)Cl)C=CC=C1.NC1=C(C(=O)NCCN2CCC(CC2)(C2=CC=C(C=C2)Cl)O)C=CC=C1.Cl.Cl | InChI=1S/2C20H24ClN3O2.4ClH.H2O/c2*21-16-7-5-15(6-8-16)20(26)9-12-24(13-10-20)14-11-23-19(25)17-3-1-2-4-18(17)22;;;;;/h2*1-8,26H,9-14,22H2,(H,23,25);4*1H;1H2
